US05626791
5 mmol of benzo[1,3]dioxole-5-carboxylic acid and 4.8 mmol of 4-(5-octylpyrimidin-2-yl)phenol are dissolved in 50 ml of CH2Cl2, and 5 mmol of DCC and 0.05 mmol of DMAP are added. The mixture is stirred for 18 hours with exclusion of light, the solvent is stripped off vacuo, and the product is purified by column chromatography on silica gel, giving 4-(5-octylpyrimidin-2-yl)phenyl benzo[1,3]dioxole-5-carboxylate.

reactant | benzo[1,3]dioxole-5-carboxylic acid | 5 mmol | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | 4-(5-octylpyrimidin-2-yl)phenol | 4.8 mmol | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
reactant | DCC | 5 mmol | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.05 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(5-octylpyrimidin-2-yl)phenyl benzo[1,3]dioxole-5-carboxylate | O1COC2=C1C=CC(=C2)C(=O)OC2=CC=C(C=C2)C2=NC=C(C=N2)CCCCCCCC | C26H28N2O4
